US04772600
2-(3-Chlorophenyl)-N-methyl-N-[3-(4-methyl-1-piperazinyl)propyl]-3H-imidazo[4,5-b]pyridine-3-acetamide
Under nitrogen bubbling, a mixture of 2-(3-chlorophenyl)-3H-imidazo[4,5-b]pyridine-3-acetic acid (2.38 g, 0.008 mole) and 1,1'-carbonyldiimidazole (1.34 g, 0.008 mole) was stirred at room temperature for 3 hours. The N,4-dimethyl-1-piperazinepropanamine (1.42 g, 0.008 mole) was added and the reaction mixture was allowed to stir at room temperature for 2 hours. The reaction mixture was evaporated to dryness. The residue was partitioned between methylene chloride and aqueous potassium bicarbonate. The aqueous layer was separated and extracted with methylene chloride. The methylene chloride layers were combined, extracted with aqueous potassium bicarbonate and water and dried over sodium sulfate. The filtrate was evaporated and the solid residue was recrystallized as a fumarate salt from ethyl alcohol-isopropyl ether. Recrystallization from isopropyl alcohol-acetonitrile-isopropyl ether did not improve the analysis. The solid was converted to the free base. The free base was treated with boiling hexanes and allowed to cool to room temperature. The solid was collected by filtration, washed with hexane, and dried under high vacuum overnight to give 0.7 g of title compound, mp 114°-17° C.

reactant | 2-(3-chlorophenyl)-3H-imidazo[4,5-b]pyridine-3-acetic acid | 0.008 mole, 2.38 g | ClC=1C=C(C=CC1)C1=NC=2C(=NC=CC2)N1CC(=O)O | C14H10ClN3O2
reactant | 1,1'-carbonyldiimidazole | 0.008 mole, 1.34 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | N,4-dimethyl-1-piperazinepropanamine | 0.008 mole, 1.42 g | CNCCCN1CCN(CC1)C | C9H21N3
product | 2-(3-Chlorophenyl)-N-methyl-N-[3-(4-methyl-1-piperazinyl)propyl]-3H-imidazo[4,5-b]pyridine-3-acetamide | 0.7 g | ClC=1C=C(C=CC1)C1=NC=2C(=NC=CC2)N1CC(=O)N(CCCN1CCN(CC1)C)C | C23H29ClN6O
